US07253286B2
2-Amino-4-(4-amino-3-chlorophenoxy)pyridine
The publicly known compound 2-amino-4-chloropyridine (5.0 g), 4-amino-3-chlorophenol (11 g), sodium hydride (60% in oil) (3.1 g) and dimethylsulfoxide (80 ml) were stirred at 160° C. for 9.5 hours. Water was added, extraction was performed with ethyl acetate, and the extract solution was washed 5 times with water. The extract solution was then passed through a glass filter coated with silica gel. The silica gel was washed with ethyl acetate, the ethyl acetate layers were combined, and the solvent was distilled off under reduced pressure to obtain 5.1 g of a dark violet solid.

reactant | 2-amino-4-chloropyridine | 5.0 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | 4-amino-3-chlorophenol | 11 g | NC1=C(C=C(C=C1)O)Cl | C6H6ClNO
reactant | sodium hydride | 3.1 g | [H-].[Na+]
reactant | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 2-Amino-4-(4-amino-3-chlorophenoxy)pyridine | 5.1 g | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)Cl | C11H10ClN3O
